US05514691
2,5-dimethoxy-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide.
3-Amino-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide and 2-amino-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide can be prepared by hydrogenation of corresponding nitro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide, which is prepared as described above.

reactant | 3-Amino-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H10BrN3O3S
reactant | 2-amino-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | NC1=C(C=CC=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H10BrN3O3S
reactant | nitro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H8BrN3O5S
product | 2,5-dimethoxy-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | COC1=C(C=C(C=C1)OC)S(=O)(=O)NC1=C(C(=NO1)C)Br | C12H13BrN2O5S
